US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[2-(3-Dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXXVII)
(1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 3-dimethylamino-benzaldehyde (31.6 mg, 0.212 mmol) were combined with ammonium acetate (29.7 mg, 0.386 mmol) and heated in ethanol (2.5 mL) at 70° C. for 18 h. The reaction mixture was concentrated and chromatographed by reverse phase preparative HPLC. The desired fractions were neutralized with bicarb solution and extracted into EtOAc. The organic layer was dried over MgSO4, filtered and concentrated. This residue was triturated in ethyl ether and filtered to yield 28 mg (37%) of the title compound. mp: 200-204° C., 1H NMR (300 MHz, DMSO-d6): 13.02 (s, 1H), 7.90 (d, 1H), 7.66 (s, 1H), 7.50 (s, 1H), 7.47 (d, J=8 Hz, 1H), 7.30 (t, J=8 Hz, 1H), 7.15 (s, 1H), 6.86 (m, 1H), 6.81 (d, J=8 Hz, 1H), 6.40 (d, J=5 Hz, 1H), 6.33 (s, 2H), 2.98 (s, 6H), 2.87 (s, 1H), 2.77 (s, 1H), 2.60 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). HPLC: 1.63 min (G method), MS: 389 (M+H).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 3-dimethylamino-benzaldehyde | 0.212 mmol, 31.6 mg | CN(C=1C=C(C=O)C=CC1)C | C9H11NO
reactant | ammonium acetate | 0.386 mmol, 29.7 mg | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | (1S,2S,3R,4R)-3-[2-(3-Dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 28 mg, 37% | CN(C=1C=C(C=CC1)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1)C | C22H24N6O
